US07141578B2
To a red solution of titanocene dichloride (0.500 g, 2.00 mmol) in anhydrous THF (4.0 mL) was added zinc dust (0.392 g, 6.00 mmol). The resulting suspension was vigorously stirred for 1 h under an argon atmosphere to give a green suspension. Excess zinc was removed by filtration through a 0.45 μm microfilter to give a green solution of dicyclopentadienyl titanium (III) chloride. To a solution of compound 505A (0.207 g, 0.399 mmol) and 1,4-cyclohexadiene (0.380 mL, 4.02 mmol) in anhydrous THF (1 mL) was added dropwise a 0.5 M solution of the above described dicyclopentadienyl titanium (III) chloride (0.9 mL, 0.45 mmol). After 1 h, an additional aliquot of the 0.5 M solution of dicyclopentadienyl titanium (III) chloride (0.9 mL, 0.45 mmol) was added and stirring was continued for 1 h. The reaction was then quenched with water (2 mL) and diluted with ethyl acetate (10 mL). The layers were separated and the organic layer was washed with brine (5 mL), dried over Na2SO4, filtered, and concentrated in vacuo to give a yellow gum. The crude material was dissolved in a minimum amount of methylene chloride and loaded on a 35 g silica gel ISCO column. Gradient elution with 0–80% ethyl acetate in hexane gave 0.043 g (21%) of compound 505Bi as a white solid and 0.023 g (11%) of compound 505Bii as a white solid. Compound 505Bi: HPLC: 3.92 min (retention time) (YMC CombiSreen ODS-A column, 4.6×50 mm, eluting with 10–90% aqueous methanol containing 0.2% phosphoric acid over 4 min, 4 mL/min, monitoring at 220 nm). MS (ES): m/z 521,36 [M+H]+. Compound 505Bii:HPLC: 91% at 3.97 min (retention time) (YMC CombiScreen ODS-A column, 4.6×50 mm, eluting with 10–90% aqueous methanol containing 0.2% phosphoric acid over 4 min, 4 mL/min, monitoring at 220 nm). MS (ES): m/z 521,34 [M+H]+.

reactant | titanocene dichloride | 2.00 mmol, 0.500 g | [Cl-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Ti+2]
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
catalyst | zinc | 6.00 mmol, 0.392 g | [Zn] | Zn
product | dicyclopentadienyl titanium (III) chloride | [Cl-].C1(C=CC=C1)[Ti+]C1C=CC=C1 | InChI=1S/2C5H5.ClH.Ti/c2*1-2-4-5-3-1;;/h2*1-5H;1H;/q;;;+1/p-1
